Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Sepsis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ man w/ h/o CAD s/p CABG, h/o afib, ETOH cirrhosis, DM, who 
presented to an OSH on ___ w/ a perforated small bowel, 
underwent enterectomy & end-ileostomy on ___, post-op course 
complicated by renal failure, ileus, worsening hepatic failure 
and mental status changes. He is being transferred to ___ for 
evaluation of his multi-organ failure--there was question of him 
having hepatorenal syndrome.  
Summary of OSH Course:  
- Pt p/w abd pain. Initially treated conservatively w/ IVF and 
levo/ flagyl. However, his pain persisted and lactate up to 6.1. 
 
- Pt went for ex lap, which reportedly revealed perforated small 
bowel. He underwent enterectomy w/ end ileostomy.  
- Post-op he was extubated. However, he had increasing 
respiratory distress and required intermittent Bipap. On day of 
transfer, he was requiring persistent Bipap due to hypoxemia: 
ABG ___ 50% Fi02 on Bipap. He was intubated prior to 
transfer to ___.  
- Pt described as having MS changes ___/ possible hepatic 
encephalopathy. He reportedly Opened eyes, responded 
"intermittently" to voice.  
- He developed acute renal failure of unclear cause. His bumped 
from 0.48 to 1.58 post-op. OSH was unable to be measure crt on 
last day or two of his OSH stay ___ elevated bili. Renal US w/ 
no hydro (per erport).  
- Pt described as having post-op ileus for which an NGT placed. 
He was started on TPN b/c ileus.  
- LFTs notable for Tbili 20.8, up from 6.8 on admission. Direct 
bili 14.9. AST 85, ALT 49. INR 2.1. Alb 2.4.  
- Pt noted to have ascites w/ bacteroides uniformis (few) and 
rare clostridium species (not perfringens) growing in it.  
- Cdiff test positive from ___ of pt's admission, 
suggesting he had it prior to presenting.  
- Pt treated with flagyl/levo from outset of hospital stay 
(___) and zosyn was added (? ___  
- Had afib w/ rates up to 140s. Was getting dig for this.  
- Trop 0.11. EKG unchanged from prior.  
- Pt developed hypotension. He was started on levophed. Serum 
cortisol 22.1 (unclear if random level). Lactic acid 2.9 prior 
to transfer.  
- Plt 29K (chronically low--for years)  
- Pt noted to have coagulopathy w/ INR 2.1  
- Got re-intubated by EMS, AC 550x10/5/100%; on levophed,  

 
Past Medical History:
- CAD s/p CABG  
- DM  
- ETOH cirrhosis  
- Colon cancer s/p resection & radiation  
- Chronic thrombocytopenia & ? leukonpenia  
- Group B strep sepsis of unknown source in ___  
- AAA  
- HTN  
- Hypercholesterolemia  
-GERD  
-Esophagitis  
- Echo ___ (OSH) nml LV function, LVH & biatrial enlargement. 
Mild MR, Mild to mod TR, mild to mod PAH. (EF 64% on MIBI ___  

- EGD ___ showed "diffuse mild inflation at GE junction--not 
biopsied--and gastritis.  
- Colonscopy rectal polyp (rsected  

 
Social History:
___
Family History:
nc
 
Physical Exam:
VS: T: 95.6 HR: 105 BP: 117/62 (on 0.25 levophed) Sat: 92% on AC 
550x14, 5, 100%  
Gen: NAD, when sedation wears off pt follows one step commands & 
shakes his head "no" when asked if he is in pain.  
HEENT: NCAT, PERRL, sclera icteric  
Neck: Supple, no LAD, no JVD  
CV: distant hrt sounds; nml S1/S2, no m/r/g  
Resp: course breath sounds b/l anteriorly  
Abdomen: Distended but Soft, absent BS, NT, vertical ~midline 
surgical incision w/ areas open space where fluid is leaking out 
___ fell out in those areas), fluid draining appears 
serosanguinous. Ostomy draining serosainguinous fluid  
Ext: No c/c/e. DP pulses are 2+ bilaterally  
Neuro: A + O x 3, CN II-XII grossly intact, Motor ___ both upper 
and lower extremities  
Skin: Pink, warm, no rashes  

 
Brief Hospital Course:
___ year-old man with CAD s/p CABG, PAF, reported cirrhosis from 
ETOH abuse, and chronic thrombocytopenia, ___ s/p enterectomy 
& end-ileostomy for small bowel perforation, who is transferred 
with multiorgan failure.  
.  
# Shock: Pt presented from OSH already on one pressor with 
evidence for multisystem organ failure including ARF. Had been 
intubated prior to transport.  On arrival pt rapidly 
decompensated with hypotension refractory to IVF and eventually 
maxed out on 4 pressors.  He was treated broadly with 
antibiotics, daptomycin, ceftazadime, PO vancomycin, IV flagyl.  
His lactate continued to elevated and he stopped making urine. A 
family meeting was held during the day when pt's pressures could 
not be maintained on max presssors and fluids.  The decision was 
made not to withdraw care but it was agreed that CPR would not 
be indicated.  The patient passed away with his family present 
at ___.  
 
Medications on Admission:
Dig 0.25mg  
Toprol Xl 50mg  
ASA 81  
PRotonix 40mg  
? Glyburide  

 
Discharge Medications:
expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Sepsis
Multiorgan failure
 
Discharge Condition:
Expired
 
Discharge Instructions:
expired
 
Followup Instructions:
___